US06924391B2
3-[4-[3-(tert-Butyldiphenylsilyloxy)propyl]phenoxy]-1-[4-(tert-butoxy carbonyl)phenoxy]-2-propanol
A mixture of 1,2-epoxy-3-[4-(tert-butoxycarbonyl)phenoxy]propane (5.11 g, 20.4 mmol) [S. P. Connors, et al., J. Med. Chem., 1991, 34, 1570] and 3-(4-hydroxyphenyl)-1-(tert-butyldiphenylsilyloxy)propane (7.97 g, 20.4 mmol) in N,N-dimethylformamide (50 ml) was treated with 1,4-diazabicyclo[2,2,2]octane (0.45 g) and the resulting mixture was heated at 70° C. for 48 hours. The cooled mixture was diluted with ethyl acetate, washed with water, saturated sodium bicarbonate and dried (magnesium sulfate). Evaporation of the solvent and chromatography of the residue on silica gel (elution toluene-ethyl acetate, 95:5) gave 7.67 g (58%) of the title material as oil.

reactant | 1,2-epoxy-3-[4-(tert-butoxycarbonyl)phenoxy]propane | 20.4 mmol, 5.11 g | O1CC1COC1=CC=C(C=C1)C(=O)OC(C)(C)C | C14H18O4
reactant | 3-(4-hydroxyphenyl)-1-(tert-butyldiphenylsilyloxy)propane | 20.4 mmol, 7.97 g | OC1=CC=C(C=C1)CCCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C25H30O2Si
reactant | 1,4-diazabicyclo[2,2,2]octane | 0.45 g | N12CCN(CC1)CC2 | C6H12N2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[4-[3-(tert-Butyldiphenylsilyloxy)propyl]phenoxy]-1-[4-(tert-butoxy carbonyl)phenoxy]-2-propanol | 7.67 g, 58% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCC1=CC=C(OCC(COC2=CC=C(C=C2)C(=O)OC(C)(C)C)O)C=C1 | C39H48O6Si
